US09107916B2
B. 2-[5-[(6-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)oxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 6-fluoro-1,2,3,4-tetrahydronaphthalen-1-ol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.82-1.88 (1H, m), 1.99-2.10 (2H, m), 2.28-2.34 (1H, m), 2.74-2.94 (2H, m), 5.35 (1H, t, J=4.0 Hz), 5.85 (1H, d, J=1.6 Hz), 6.84-6.89 (2H, m), 7.29 (1H, dd, J=5.6 Hz, 8.4 Hz), 7.36 (1H, dd, J=0.8 Hz, 4.8 Hz), 7.63 (1H, d, J=2.0 Hz), 7.86 (1H, s), 8.65 (1H, d, J=4.8 Hz). [M+H] Calc'd for C19H15FN4O, 335. Found, 335.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 6-fluoro-1,2,3,4-tetrahydronaphthalen-1-ol | FC=1C=C2CCCC(C2=CC1)O | C10H11FO
product | 2-[5-[(6-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)oxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC=1C=C2CCCC(C2=CC1)OC1=CC=NN1C1=NC=CC(=C1)C#N | C19H15FN4O
